US05123951
Mono-n-propyl methoxymalonate (13.07 grams, 0.07 mole), prepared in Part B, 3,5-dichloroaniline (12.02 grams, 0.07 mole) and 1,3-dicyclohexylcarbodiimide (15.31 grams, 0.07 mole) were reacted in a manner similar to that described in Example LVII to give 7.22 grams (0.02 mole) of n-propyl 3-[(3,5-dichlorophenyl)amino]-2-methoxy-3-oxopropanoate having a melting point of 89° C.-93° C. An analytical sample recrystallized from hexane had a melting point of 89° C.-92° C.

reactant | Mono-n-propyl methoxymalonate | 0.07 mole, 13.07 grams | COC(C(=O)OCCC)C(=O)[O-]
reactant | 3,5-dichloroaniline | 0.07 mole, 12.02 grams | ClC=1C=C(N)C=C(C1)Cl | C6H5Cl2N
reactant | 1,3-dicyclohexylcarbodiimide | 0.07 mole, 15.31 grams | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | n-propyl 3-[(3,5-dichlorophenyl)amino]-2-methoxy-3-oxopropanoate | 0.02 mole, 7.22 grams | ClC=1C=C(C=C(C1)Cl)NC(C(C(=O)OCCC)OC)=O | C13H15Cl2NO4
